US08557805B2
2-(2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
A mixture of (2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (370 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (268 mg), 1-hydroxybenzotriazole (189 mg), and N,N-dimethylformamide (20 mL) was stirred at 50° C. for 30 min. The reaction solution was cooled to room temperature, 10% aqueous ammonia solution (1.0 mL) was added, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (methanol:ethyl acetate:hexane=0:50:50 to 10:90:0, volume ratio) to give the title compound (200 mg, yield 54%) as a white amorphous solid. The white amorphous solid was crystallized from diethyl ether and the obtained crystals were recrystallized from ethyl acetate-diethyl ether to give the title compound as colorless crystals.

reactant | (2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 370 mg | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C=2SC(CN2)CC(=O)O)C=C1 | C25H26N2O7S2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 268 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 189 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonia | 1.0 mL | N | H3N
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 200 mg, yield 54% | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C=2SC(CN2)CC(=O)N)C=C1 | C25H27N3O6S2
